US08685969B2
8. Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate
To a solution of benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate (0.780 g, 1.647 mmol) and ethyl 2-oxoacetate in toluene (50%) (0.653 mL, 3.29 mmol) at room temperature was added hydrogen chloride in 1,4-dioxane (4.0 M) (0.494 mL, 1.977 mmol). The mixture was stirred room temperature for 16 hr. The volatiles were removed under vacuum. The residue was diluted with water (50 mL), basified with NaHCO3 solution to pH 10, and extracted with ethyl acetate (4×50 mL). The combined extract was washed with brine (40 ml), dried over anhydrous MgSO4, and concentrated to dryness under vacuum. To the residue were added p-xylene (60 mL) and 10% Pd/C (0.46 g), and the mixture was heated at 125° C. under an ambient atmosphere for 4.5 hr. The solid phase was removed by suction filtration. The filtrate was diluted with ethyl acetate (120 ml), washed with brine (40 ml), and dried over anhydrous MgSO4. The desired product (0.399 g, 0.721 mmol, 43.8% yield) was isolated by ISCO (40 g silica gel, solid loading, 15-35% ethyl acetate/CH2Cl2).

reactant | benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 1.647 mmol, 0.780 g | NCC(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C28H31N3O4
reactant | ethyl 2-oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | toluene | 3.29 mmol, 0.653 mL | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen chloride | Cl | ClH
reactant | 1,4-dioxane | 1.977 mmol, 4.0 M, 0.494 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate CH2Cl2 | C(C)(=O)OCC.C(Cl)Cl
product | Ethyl 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.721 mmol, 0.399 g, 43.8% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)OCC)C | C32H31N3O6
